US09102591B2
To a solution of 2-methylpyrimidine-5-carbaldehyde (0.808 g, 6.62 mmol) and propane-1,3-diol (1.01 g, 0.868 ml, 13.2 mmol) in toluene (7.6 ml) and THF (1.9 ml) was added p-toluenesulfonic acid (11 mg, 0.066 mmol). The reaction was heated at 65° C. for 4.5 hours. The reaction mixture was then poured into H2O (50 mL) and extracted with AcOEt (3×50 mL). The combined organic phases were washed with brine, dried over MgSO4 and concentrated in vacuo to yield 5-(1,3-dioxan-2-yl)-2-methylpyrimidine (620 mg, 3.44 mmol, 52%) used for next step without further purification.

reactant | 2-methylpyrimidine-5-carbaldehyde | 6.62 mmol, 0.808 g | CC1=NC=C(C=N1)C=O | C6H6N2O
reactant | propane-1,3-diol | 13.2 mmol, 0.868 ml, 1.01 g | C(CCO)O | C3H8O2
reactant | H2O | 50 mL | O | H2O
solvent | toluene | 7.6 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 1.9 ml | C1CCOC1 | C4H8O
catalyst | p-toluenesulfonic acid | 0.066 mmol, 11 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 5-(1,3-dioxan-2-yl)-2-methylpyrimidine | 3.44 mmol, 620 mg, 52% | O1C(OCCC1)C=1C=NC(=NC1)C | C9H12N2O2
